US06369078B1
trans-N-Boc-2-methyl-6-(1-propenyl)piperidine
A suspension of ethyltriphenylphosphonium bromide (4.92 g, 13.25 mmol) in 27 mL of THF was cooled to −30° C. and treated with n-BuLi (5.41 mL, 13.25 mmol) dropwise. The deep red solution was slowly warmed to 0° C., stirred for 30 min, and then cooled to −78° C. The ylide was treated with a solution of trans-N-Boc-2-Methyl-6-Piperidinecarboxaldehyde (2.00 g, 9.46 mmol) in 3 mL of THF, and the mixture was slowly warmed to room temperature. The mixture was diluted with water, and the organic layer was separated. The aqueous layer was extracted with ether and the combined extracts were dried over K2CO3 and then concentrated to give a crude product as an oil. Chromatography on silica with 5% EtOAc/hexane afforded 2.26 g (81%) of the product which was homogeneous by TLC analysis. 1H NMR (250 MHz) δ(5.51-5.38 (m, 2 H), 4.61-4.56 (m, 1 H), 4.08 (m, 1 H), 1.91-1.19 (m, 21 H); 13C NMR (62.7 MHz) 155.2 (s), 133.5 (s), 122.9 (s), 78.9 (s), 48.8 (s), 47.3 (s), 28.5 (s), 28.3 (s), 27.7 (s), 20.3 (s), 14.7 (s), 12.8 (s) ppm.

reactant | n-BuLi | 13.25 mmol, 5.41 mL | [Li]CCCC
reactant | trans-N-Boc-2-Methyl-6-Piperidinecarboxaldehyde | 9.46 mmol, 2.00 g | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C=O)C | C12H21NO3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
catalyst | ethyltriphenylphosphonium bromide | 13.25 mmol, 4.92 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | trans-N-Boc-2-methyl-6-(1-propenyl)piperidine | 2.26 g, 81% | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C=CC)C | C14H25NO2
